.subckt gears Win Wout
XU1 Win 0 P001 Winding_RC Rser=1m Cpar=1p N=1
XU2 Wout 0 P001 Winding_RC Rser=1m Cpar=1p N={Gear_ratio}
.param Gear_ratio=1
.ends gears
.lib Transformers.lib
